* Variable Spacetime Impedance (AVE) - SPICE Netlist
* Element: Lithium-7 (Z=3, A=7)
* Auto-generated topological mutual impedance array
* Nodes: 7



* -----------------------------------------------------------------
* NUCLEON (Baseline 6^3_2 Topological Defect)
* -----------------------------------------------------------------
.SUBCKT NUCLEON IN OUT
L_CORE IN OUT 1uH
C_CORE IN OUT 1pF
.ENDS NUCLEON



* -----------------------------------------------------------------
* MACROSCOPIC TOPOLOGY (Nucleon Array)
* -----------------------------------------------------------------
V_STIM NODE_1 0 AC 1 PULSE(0 100k 10n 1n 1n 50n 100n)

X_NUC_1 NODE_1 0 NUCLEON
X_NUC_2 NODE_2 0 NUCLEON
X_NUC_3 NODE_3 0 NUCLEON
X_NUC_4 NODE_4 0 NUCLEON
X_NUC_5 NODE_5 0 NUCLEON
X_NUC_6 NODE_6 0 NUCLEON
X_NUC_7 NODE_7 0 NUCLEON


* -----------------------------------------------------------------
* SPATIAL MUTUAL INDUCTANCE (K-FACTORS)
* -----------------------------------------------------------------
K_1 X_NUC_1.L_CORE X_NUC_2.L_CORE 0.207973
K_2 X_NUC_1.L_CORE X_NUC_3.L_CORE 0.207973
K_3 X_NUC_1.L_CORE X_NUC_4.L_CORE 0.207973
K_4 X_NUC_1.L_CORE X_NUC_5.L_CORE 0.035977
K_5 X_NUC_1.L_CORE X_NUC_6.L_CORE 0.031663
K_6 X_NUC_1.L_CORE X_NUC_7.L_CORE 0.035977
K_7 X_NUC_2.L_CORE X_NUC_3.L_CORE 0.207973
K_8 X_NUC_2.L_CORE X_NUC_4.L_CORE 0.207973
K_9 X_NUC_2.L_CORE X_NUC_5.L_CORE 0.035977
K_10 X_NUC_2.L_CORE X_NUC_6.L_CORE 0.035977
K_11 X_NUC_2.L_CORE X_NUC_7.L_CORE 0.031663
K_12 X_NUC_3.L_CORE X_NUC_4.L_CORE 0.207973
K_13 X_NUC_3.L_CORE X_NUC_5.L_CORE 0.031663
K_14 X_NUC_3.L_CORE X_NUC_6.L_CORE 0.035977
K_15 X_NUC_3.L_CORE X_NUC_7.L_CORE 0.035977
K_16 X_NUC_4.L_CORE X_NUC_5.L_CORE 0.035977
K_17 X_NUC_4.L_CORE X_NUC_6.L_CORE 0.035977
K_18 X_NUC_4.L_CORE X_NUC_7.L_CORE 0.035977
K_19 X_NUC_5.L_CORE X_NUC_6.L_CORE 0.021383
K_20 X_NUC_5.L_CORE X_NUC_7.L_CORE 0.021383
K_21 X_NUC_6.L_CORE X_NUC_7.L_CORE 0.021383


* -----------------------------------------------------------------
* SIMULATION DIRECTIVES
* -----------------------------------------------------------------
* Transient Analysis: 100kV Step Pulse (1ns rise) to test dielectric rupture limits
.TRAN 0.1n 200n
* Broadband AC sweep: 1 MHz to 1 GHz to ping macro-resonance Q-factors
.AC DEC 100 1MEG 1G
.OPTIONS METHOD=GEAR

.END
